US07119109B2
d) (R)-(4,4,4-Trifluoro-3-hydroxybutyl)carbamic acid tert-butyl ester
A solution of (R)-4-azido-1,1,1-trifluoro-2-butanol (2.20 g, 13.0 mmol) in THF (27 mL) was treated with water (6 mL) and triphenylphosphine (3.41 g, 13.0 mmol) at ambient temperature. After 18 h, di-t-butyldicarbonate (3.56 g, 16.3 mmol) was added and string continued for 3 h. The mixture was concentrated under reduced pressure, and the residue was diluted with water and extracted with diethyl ether. The combined organic extracts were washed (brine), dried, and evaporated to a pale yellow oil. The crude material was purified by silica gel chromatography, eluting with 1:1 hexane/diethyl ether (v/v) and 100% diethyl ether to give the product as a pale yellow oil (3.17 g, 100%).

reactant | (R)-4-azido-1,1,1-trifluoro-2-butanol | 13.0 mmol, 2.20 g | N(=[N+]=[N-])CC[C@H](C(F)(F)F)O | C4H6F3N3O
reactant | water | 6 mL | O | H2O
reactant | triphenylphosphine | 13.0 mmol, 3.41 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-t-butyldicarbonate | 16.3 mmol, 3.56 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 27 mL | C1CCOC1 | C4H8O
product | (R)-(4,4,4-Trifluoro-3-hydroxybutyl)carbamic acid tert-butyl ester | 3.17 g, 100% | C(C)(C)(C)OC(NCC[C@H](C(F)(F)F)O)=O | C9H16F3NO3
